US09447030B2
To a solution of (1-acetylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate (0.15 g, 0.40 mmol, 1 eq.) in MeOH/THF (5 mL/5 mL) was added Zinc powder (0.13 g, 2.00 mmol, 5 eq.) and ammonium formate (0.20 g, 3.20 mmol, 8 eq.). The reaction was stirred at room temperature for 3 h. The reaction was filtered through Celite and the solids washed with MeOH. The filtrate was concentrated under reduced pressure then diluted with water. The obtained solid was filtered and dried. The crude product was purified by column chromatography (silica gel, 5% MeOH/CH2Cl2) to obtain (1-acetylazetidin-3-yl)methyl (2-amino-5-(thiophen-2-yl)phenyl)carbamate (0.030 g, 22% yield). ESI+ MS: m/z 346 ([M+H]+), 1H NMR (500 MHz, d6-DMSO): δ 8.74 (bs, 1H), 7.50 (bs, 1H), 7.34 (d, J=5.0 Hz, 1H), 7.24-7.14 (m, 2H), 7.08-7.01 (m, 1H), 6.72 (d, J=8.0 Hz, 1H), 5.14 (bs, 2H), 4.30-4.10 (m, 3H), 3.95-3.80 (m, 2H), 3.68-3.55 (m, 1H), 2.95-2.85 (m, 1H), 1.74 (s, 3H).

reactant | (1-acetylazetidin-3-yl)methyl (2-nitro-5-(thiophen-2-yl)phenyl)carbamate | 0.40 mmol, 0.15 g, 1 eq. | [N+](=O)([O-])C1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CN(C1)C(C)=O)=O | C17H17N3O5S
reactant | ammonium formate | 3.20 mmol, 0.20 g, 8 eq. | C(=O)[O-].[NH4+]
solvent | MeOH THF | 5 mL | CO.C1CCOC1
catalyst | Zinc | 2.00 mmol, 0.13 g, 5 eq. | [Zn] | Zn
product | (1-acetylazetidin-3-yl)methyl (2-amino-5-(thiophen-2-yl)phenyl)carbamate | 0.030 g, 22% yield | NC1=C(C=C(C=C1)C=1SC=CC1)NC(OCC1CN(C1)C(C)=O)=O | C17H19N3O3S
